US04323570
3.0 g 2-cyclopropyl-4,6-dichloro-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine are mixed with a solution of 1.4 g sodium methylate in 15 ml methanol and heated for 6 hours under reflux. The solution then is concentrated, mixed with water, and extracted with chloroform. The chlorform phase is dried and concentrated. 1.8 g of 2-cyclopropyl-4,6-dimethoxy-5(2-imidazolin-2-yl)-aminopyrimidine (melting point 193°-195° C.) is obtained. The hydrochloride of this compound melts at 214°-216° C.

reactant | 2-cyclopropyl-4,6-dichloro-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine | 3.0 g | C1(CC1)C1N(C(=C(C(=N1)Cl)C=1N(CCN1)C(C)=O)Cl)N | C12H15Cl2N5O
reactant | sodium methylate | 1.4 g | C[O-].[Na+]
reactant | methanol | 15 ml | CO | CH4O
product | 2-cyclopropyl-4,6-dimethoxy-5(2-imidazolin-2-yl)-aminopyrimidine | 1.8 g | C1(CC1)C1N(C(=C(C(=N1)OC)C=1NCCN1)OC)N | C12H19N5O2
